US04472433
A mixture of 2-oxo-7-(3,4,5-trimethoxyphenoxy)indoline (3.2 g.), sodium hydroxide (1 g.), dioxane (20 ml.) and water (20 ml.) was refluxed under heating for 36 hours with stirring. After cooling, the reaction mixture was washed with diethyl ether. Ethyl acetate was added to the aqueous solution and adjusted to pH 4.0 with 5% sulfuric acid. The ethyl acetate layer was separated, washed with water and dried over magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was pulverized with diethyl ether to give 2-[2-amino-3-(3,4,5-trimethoxyphenoxy)phenyl]acetic acid (2.5 g.).

reactant | 2-oxo-7-(3,4,5-trimethoxyphenoxy)indoline | 3.2 g | O=C1NC2=C(C=CC=C2C1)OC1=CC(=C(C(=C1)OC)OC)OC | C17H17NO5
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | 2-[2-amino-3-(3,4,5-trimethoxyphenoxy)phenyl]acetic acid | 2.5 g | NC1=C(C=CC=C1OC1=CC(=C(C(=C1)OC)OC)OC)CC(=O)O | C17H19NO6
